US05981533
4-(3-Chloro-phenylamino)-3-(4-hydroxy-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine
Under a nitrogen atmosphere, a solution of 5 ml (51.9 mmol) of boron tribromide in 20 ml of methylene chloride is added dropwise over a period of 30 minutes to a suspension, cooled to 0° C., of 5 g (13.63 mmol) of 4-(3-chloro-phenylamino)-3-(4-methoxy-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine in 100 ml of methylene chloride. The reaction mixture is stirred at 20° C. for 14 hours and then filtered and the filter residue is digested for 1/2 hour at RT in 85 ml of water. After filtering, the filter residue is partitioned between 50 ml of saturated sodium hydrogen carbonate solution, 50 ml of water and 135 ml of THF. The organic phase is separated off, the aqueous phase is extracted again with 35 ml of THF, the combined THF extracts are washed with brine and the organic phase is dried over sodium sulfate and concentration by evaporation is carried out in vacuo. The crystalline residue is digested in 65 ml of boiling ethyl acetate, cooled to RT and filtered, yielding the crude title compound. Recrystallization of a sample from ethyl acetate yields the pure title compound; m.p. >260° C.; TLC-Rf =0.54 (toluene/isopropanol/conc. ammonia [70:29:1]).

reactant | boron tribromide | 51.9 mmol, 5 ml | B(Br)(Br)Br | BBr3
reactant | 4-(3-chloro-phenylamino)-3-(4-methoxy-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 13.63 mmol, 5 g | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC2=CC=C(C=C2)OC | C18H15ClN6O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-Chloro-phenylamino)-3-(4-hydroxy-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC2=CC=C(C=C2)O | C17H13ClN6O
